US06040331
Synthesis of 1-acetyl-7-chloro-2-phenyl-1,2,2a,3,4,5-hexahydrobenz[cd]indol-5-one
6-chloro-2-phenylindole-3-propionic acid (19.5 g) synthesized as in Example 1, step 1 was suspended in ethanol (200 ml), and to the suspension were added zinc powder (42.5 g), then conc. hydrochloric acid (50 ml). The mixture was heated to reflux for 3 hours. In the meantime, two portions (50 ml and 20 ml) of conc. hydrochloric acid were further added 1 hour and 2 hours later respectively. After allowing the mixture to cool, the zinc was filtered off and the filtrate was diluted with water, adjusted to about pH 4 with potassium carbonate and extracted three times with ethyl acetate. The organic layers were combined, washed with saturated aqueous solution of sodium chloride and dried over anhydrous sodium sulfate. The solvent was distilled off under reduced pressure and the residue was purified by silica gel column chromatography (hexane/ethyl acetate=9:1) to yield 4.2 g (20%) of the titled compound as a pale yellow syrup.

reactant | 6-chloro-2-phenylindole-3-propionic acid | 19.5 g | ClC1=CC=C2C(=C(NC2=C1)C1=CC=CC=C1)CCC(=O)O | C17H14ClNO2
reactant | hydrochloric acid | 50 ml | Cl | ClH
reactant | hydrochloric acid | 50 ml | Cl | ClH
reactant | ethanol | 200 ml | C(C)O | C2H6O
catalyst | zinc | 42.5 g | [Zn] | Zn
product | 1-acetyl-7-chloro-2-phenyl-1,2,2a,3,4,5-hexahydrobenz[cd]indol-5-one | 4.2 g, 20% | C(C)(=O)N1C(C2C=3C(=CC(=CC13)Cl)C(CC2)=O)C2=CC=CC=C2 | C19H16ClNO2
